US07217714B1
1-(tert-Butoxycarbonyl)-3-azetidinecarboxylic acid
Di-tert-butyl dicarbonate (3.02 g, 13.8 mmol) was added to a suspension of 3-azetidine carboxylic acid (1.00 g, 10.0 mmol) and potassium carbonate (1.80 g, 13.0 mmol) in water (18 ml) and dioxane (18 ml) at 0° C. and allowed to warm to room temperature. The reaction was stirred for 15 hours and concentrated under reduced pressure. The residue was acidified to pH 4 by the addition of 1M citric acid solution and extracted with dichloromethane (×3). The combined organic solutions were washed with water and brine, dried (MgSO4), filtered and evaporated under reduced pressure to afford the title compound as a white solid, 2.10 g.

reactant | Di-tert-butyl dicarbonate | 13.8 mmol, 3.02 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-azetidine carboxylic acid | 10.0 mmol, 1.00 g | N1CC(C1)C(=O)O | C4H7NO2
reactant | potassium carbonate | 13.0 mmol, 1.80 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 18 ml | O | H2O
solvent | dioxane | 18 ml | O1CCOCC1 | C4H8O2
product | 1-(tert-Butoxycarbonyl)-3-azetidinecarboxylic acid | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
